US08865675B2
A solution of ethylmethylamine (2 mL) in EtOH (10 mL) was treated with 3-((((6Z,9Z,28Z,31Z)-heptatriaconta-6,9,28,31-tetraen-19-yloxy)carbonyl)(methyl)amino)propyl methanesulfonate (500 mg, 0.7 mmol) in CH2Cl2 (2.5 mL). The solution was stirred (50 h), concentrated and subjected to chromatography (EtOAc) to yield (6Z,9Z,28Z,31Z)-heptatriaconta-6,9,28,31-tetraen-19-yl (3-(ethyl(methyl)amino)propyl)(methyl)carbamate (305 mg, 64%) as a pale yellow oil. Rf 0.41 (10% CH3OH—CH2Cl2), 1H NMR (400 MHz, CDCl3, δH) 5.47-5.34 (m, 8H, C═CH×8), 4.81-4.75 (m, 1H, CHO2CNR2), 3.33 (br. s, 2H, CH2NCH3), 2.94 (br. s, 3H, CO2NCH3), 2.83 (app. t, 4H), 2.45 (q, 2H, N(CH3)CH2CH3), 2.37 (t, 2H, CH2N(CH3)CH2CH3), 2.25 (s, 3H, N(CH3)CH2CH3), 2.14-2.07 (m, 8H, CH2HC═C×4), 1.81-1.70 (m, 4H, CH2×2), 1.62-1.50 (m, 4H, CH2×2), 1.46-1.25 (m, 34H, CH2×17), 1.09 (t, 3H, CH3NCH2CH3), 0.93 (t, 6H, H3×2), FW 685.16, C45H84N2O2.

reactant | ethylmethylamine | 2 mL | C(C)NC | C3H9N
reactant | 3-((((6Z,9Z,28Z,31Z)-heptatriaconta-6,9,28,31-tetraen-19-yloxy)carbonyl)(methyl)amino)propyl methanesulfonate | 0.7 mmol, 500 mg | CS(=O)(=O)OCCCN(C)C(=O)OC(CCCCCCCC\C=C/C\C=C/CCCCC)CCCCCCCC\C=C/C\C=C/CCCCC | C43H79NO5S
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | CH2Cl2 | 2.5 mL | C(Cl)Cl | CH2Cl2
product | (6Z,9Z,28Z,31Z)-heptatriaconta-6,9,28,31-tetraen-19-yl (3-(ethyl(methyl)amino)propyl)(methyl)carbamate | 305 mg, 64% | C(C)N(CCCN(C(OC(CCCCCCCC\C=C/C\C=C/CCCCC)CCCCCCCC\C=C/C\C=C/CCCCC)=O)C)C | C45H84N2O2
